US08703805B2
To a solution of 5-(4-bromo-2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(trifluoromethyl)-1H-pyrazole (3.55 g, 7.55 mmol) and 3-(methoxycarbonyl)phenylboronic acid (1.77 g, 9.83 mmol) in 1,2-dimethoxyethane (36 mL) was added K2CO3 (3.126 g, 22.65 mmol) and H2O (4 mL). The resulting biphasic suspension was stirred at ambient temperature and sparged with nitrogen for 10 minutes. The reaction was then treated with dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (600 mg, 0.734 mmol) and heated to 80° C. in an oil bath. The reaction was heated at 80° C. for 10 hours and then allowed to cool to ambient temperature. The cooled reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to afford crude product as a dark oil. The crude product was purified by flash-column chromatography eluting with a gradient from 0% to 40% EtOAc/hexane to afford methyl 3′-chloro-4′-(1-(2,6-dichlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)biphenyl-3-carboxylate (3.50 g, 88% yield) solid. MS(ES): 525 [M+H]+.

reactant | 5-(4-bromo-2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(trifluoromethyl)-1H-pyrazole | 7.55 mmol, 3.55 g | BrC1=CC(=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1Cl)Cl)C(F)(F)F)Cl | C16H7BrCl3F3N2
reactant | 3-(methoxycarbonyl)phenylboronic acid | 9.83 mmol, 1.77 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | K2CO3 | 22.65 mmol, 3.126 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 36 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.734 mmol, 600 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 4 mL | O | H2O
product | methyl 3′-chloro-4′-(1-(2,6-dichlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)biphenyl-3-carboxylate | 3.50 g, 88% yield | ClC=1C=C(C=CC1C1=CC(=NN1C1=C(C=CC=C1Cl)Cl)C(F)(F)F)C1=CC(=CC=C1)C(=O)OC | C24H14Cl3F3N2O2
